US07435823B2
Step (a) Preparation of 6-bromo-1-fluoro-naphthalen-2-ol
To a solution of 6-bromo-naphthalen-2-ol (5 g, 22.4 mmol, Aldrich) in dry DMF (50 mL, Aldrich) was added N-fluorobenzene sulfonimide (21.9 g, 67.2 mmol, Aldrich). The reaction was stirred at RT for 48 h. The volatile portion was removed in vacuo and the residue was purified by silica gel chromatography (CHCl3) to give title compound as a yellow solid. MS (ESI, neg. ion) m/z: 240.0 (M−1). Mass Calc'd for C10H6BrFO: 239.96.

reactant | 6-bromo-naphthalen-2-ol | 22.4 mmol, 5 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | N-fluorobenzene sulfonimide | 67.2 mmol, 21.9 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 6-bromo-1-fluoro-naphthalen-2-ol | BrC=1C=C2C=CC(=C(C2=CC1)F)O | C10H6BrFO
